US04128658
2-(5-Hydroxymethyl-2-furanylmethyl)-1H-isoindole-1,3(2H)-dione (10 g) was dissolved in thionyl chloride (15 ml) with the aid of gentle heat. The solution was evaporated to dryness and the solid residue re-evaporated with cyclohexanebenzene (1:1). The residue was suspended in ether, the suspension filtered, washed with ether and dried to give 2-(5-chloromethyl-2-furanylmethyl)-1H-isoindole-1,3(2H)-dione (10.1 g) m.p. 119°-122° (dec.). Analysis Found: C, 61.32; H, 3.71; N, 5.00. C14H10ClNO4 requires: C, 60.99; H, 3.66; N, 5.08%.

reactant | 2-(5-Hydroxymethyl-2-furanylmethyl)-1H-isoindole-1,3(2H)-dione | 10 g | OCC1=CC=C(O1)CN1C(C2=CC=CC=C2C1=O)=O | C14H11NO4
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(5-chloromethyl-2-furanylmethyl)-1H-isoindole-1,3(2H)-dione | 10.1 g | ClCC1=CC=C(O1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10ClNO3
